US05331007
To a stirred solution of 1,2-diphenyl-2-propylamine (21.0 g, 0.085 mol) in chloroform (500 ml) under nitrogen was added N-CBZ-glycine (23.0 g, 0.11 mol), and then a solution of dicyclohexylcarbodiimide (20.6 g, 0.1 mol) inchloroform (100 ml) and the mixture stirred for 14 hours. The precipitated solid was removed by filtration and the solvent evaporated. The residue was dissolved in methylene chloride (500 ml), filtered and evaporated to ayellow oil. This was treated with ether (700 ml) and 500 ml of ice cold water, basified with 5 ml of 50% NaOH, the layers shaken and separated. The ether layer was washed with water (2×125 ml), dried and evaporated to an oil, 33.5 g. This was dissolved in methanol (500 ml) and 10% HCl (50 ml) and hydrogenated at 40psi in a Parr apparatus over 3.0 g of 10% Pd/C catalyst for 4 hours. The catalyst was removed by filtration, and the solvent evaporated to a white solid. This was dissolved in 80 ml of hot methanol and treated with 200 ml of ether. Upon cooling a solid crystallised which was recrystallised from 100 ml of isopropanol and 100 ml of methanol to give 8.4 g of 2-amino-N-(1,2-diphenyl-1-methylethyl)acetamide hydrochloride which, aftervacuum drying at 80° C. for 24 hours, had mp 253°-254° C.

reactant | 1,2-diphenyl-2-propylamine | 0.085 mol, 21.0 g | C1(=CC=CC=C1)CC(C)(C1=CC=CC=C1)N | C15H17N
reactant | N-CBZ-glycine | 0.11 mol, 23.0 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
reactant | dicyclohexylcarbodiimide | 0.1 mol, 20.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-N-(1,2-diphenyl-1-methylethyl)acetamide hydrochloride | 8.4 g | Cl.NCC(=O)NC(CC1=CC=CC=C1)(C)C1=CC=CC=C1 | InChI=1S/C17H20N2O.ClH/c1-17(19-16(20)13-18,15-10-6-3-7-11-15)12-14-8-4-2-5-9-14;/h2-11H,12-13,18H2,1H3,(H,19,20);1H
